US07012075B2
To a solution of methyl N-(4-bromo-3-methylisothiazol-5-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]-L-leucinate (24.2 g, 48.8 mmol) in TBF (350 mL) and AcOH (90 mL) was added zinc dust (18.0 g, 275 mmol). The resulting grey suspension was sonicated for 30 min and then stirred at room temperature for 2 h. The reaction mixture was filtered on a pad of celite and concentrated in vacuo. The resulting residue was partitioned between EtOAc and water. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography using Et2O in hexane to afford methyl N-(4-bromo-3-methylisothiazol-5-yl)-L-leucinate as a colorless oil which solidified upon standing for 1 h at room temperature under high vacuum to give a white solid.

reactant | methyl N-(4-bromo-3-methylisothiazol-5-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]-L-leucinate | 48.8 mmol, 24.2 g | BrC=1C(=NSC1N([C@@H](CC(C)C)C(=O)OC)C(=O)OCC(Cl)(Cl)Cl)C | C14H18BrCl3N2O4S
solvent | AcOH | 90 mL | CC(=O)O | C2H4O2
catalyst | zinc | 275 mmol, 18.0 g | [Zn] | Zn
product | methyl N-(4-bromo-3-methylisothiazol-5-yl)-L-leucinate | BrC=1C(=NSC1N[C@@H](CC(C)C)C(=O)OC)C | C11H17BrN2O2S
